US05336494
The enzymatic solution was prepared by adding carboxymethylcellulose at ambient temperature, and with constant stirring, to glycerine, glucose and water to form a solution, and thereafter adding glucose oxidase, with continued stirring, to obtain the enzymatic coating composition. The viscosity of the solution was 8,000 centipoises.

reactant | glycerine | OCC(O)CO | C3H8O3
solvent | water | O | H2O
product | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
